US09447046B2
Preparation 29a: 7-(3-methylphenyl)-3,4-dihydro-2H-1-benzopyran-4-one
To a suspension of 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one (2.0 g, 8.9 mmol), 3-methylbenzeneboronic acid (1.8 g, 13.2 mmol), Na2CO3 (2.8 g, 26.4 mmol) in dioxane (40 mL) and water (2 mL) was added Pd(PPh3)4 (509 mg, 0.4 mmol) at rt under N2. The reaction was stirred at 100° C. overnight. The reaction was filtered and concentrated. Purification by silica gel chromatography (PE:EtOAc=12:1) gave 2.0 g (96%) of the title compound as a white oil. 1H NMR (300 MHz, CDCl3): δ 2.44 (3H, s), 2.86 (2H, t, J=6.6 Hz), 4.59 (2H, t, J=6.6 Hz), 7.20-7.29 (3H, m), 7.36-7.44 (3H, m), 7.87 (1H, d, J=8.1 Hz). [M+H] Calc'd for C16H14O2, 239. Found, 239.

reactant | 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one | 8.9 mmol, 2.0 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | 3-methylbenzeneboronic acid | 13.2 mmol, 1.8 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | Na2CO3 | 26.4 mmol, 2.8 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.4 mmol, 509 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3-methylphenyl)-3,4-dihydro-2H-1-benzopyran-4-one | 2.0 g, 96% | CC=1C=C(C=CC1)C1=CC2=C(C(CCO2)=O)C=C1 | C16H14O2
